US20010047031A1
(RS)-4-[1-(2-Indan-2-yl-ethyl)-pyrrolidine-3-sulfonyl]-phenol
The title compound, MS: m/e=372.3 (M+H+) was prepared from (RS)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt and toluene-4-sulfonic acid 2-indan-2-yl-ethyl ester. Toluene-4-sulfonic acid 2-indan-2-yl-ethyl ester is a known compound and has been prepared as described in U.S. Pat. No. 3,984,407.

reactant | (RS)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt | FC(C(=O)O)(F)F.N1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O
reactant | toluene-4-sulfonic acid 2-indan-2-yl-ethyl ester | C1C(CC2=CC=CC=C12)CCOS(=O)(=O)C1=CC=C(C=C1)C | C18H20O3S
product | (RS)-4-[1-(2-Indan-2-yl-ethyl)-pyrrolidine-3-sulfonyl]-phenol | C1C(CC2=CC=CC=C12)CCN1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O | C21H25NO3S
